US07368446B2
1-Benzoyl-3-(2-methoxy-5-morpholin-4-yl-phenyl)-thiourea
To a solution of 2-methoxy-5-morpholin-4-yl-phenylamine (4.6 g, 22 mmol) in acetone (140 ml) is added a solution of benzoyl isothiocyanate (3.4 ml, 25 mmol) in acetone (80 ml) and the reaction mixture is stirred for further 30 min at ambient temperature. After removal of the volatile components in vacuo, the product is isolated by flash chromatography (silica, eluent ethyl acetate/n-hexane 1:4, then 1:2) as a yellow solid (8.0 g, 97%). MS: m/e=272 (M+).

reactant | 2-methoxy-5-morpholin-4-yl-phenylamine | 22 mmol, 4.6 g | COC1=C(C=C(C=C1)N1CCOCC1)N | C11H16N2O2
reactant | benzoyl isothiocyanate | 25 mmol, 3.4 ml | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | acetone | 140 ml | CC(=O)C | C3H6O
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | 1-Benzoyl-3-(2-methoxy-5-morpholin-4-yl-phenyl)-thiourea | C(C1=CC=CC=C1)(=O)NC(=S)NC1=C(C=CC(=C1)N1CCOCC1)OC | C19H21N3O3S
